US06884821B1
1.0 g of 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoic acid was dissolved in 5 ml ethanol, and 2.3 ml of 1 N aqueous sodium hydroxide solution was added thereto, and the solvent was removed, to give sodium 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate was obtained.

reactant | 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoic acid | 1.0 g | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)Cl | C21H23Cl2NO5
reactant | sodium hydroxide | 1 N, 2.3 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | sodium 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)[O-])OC(C)C)C=CC(=C1)Cl.[Na+] | InChI=1S/C21H23Cl2NO5.Na/c1-12(2)29-19(21(26)27)9-13-4-7-18(28-3)14(8-13)11-24-20(25)16-6-5-15(22)10-17(16)23;/h4-8,10,12,19H,9,11H2,1-3H3,(H,24,25)(H,26,27);/q;+1/p-1
